US07179801B2
A solution of 5-amino-1-(2-triphenylmethyloxyethyl)-1H-pyrazole-4-carbaldehyde (15 g) and ammonium acetate (4.07 g) in nitromethane (300 ml) was refluxed for 6.5 hours. The reaction mixture was evaporated under reduced pressure and extracted with dichloromethane. The extract was dried over anhydrous magnesium sulfate, filtered, and evaporated in vacuo to give 5-amino-4—[(E)-2-nitroethenyl]-1-(2-triphenylmethyloxyethyl)-1H-pyrazole (4.46 g). 1H-NMR(DMSO-d6) δ3.15 (2H, t, J=4.9 Hz), 4.16 (2H, t, J=4.9 Hz), 6.96 (2H, s), 7.1–7.3 (15H, m), 7.75 (1H, d, J=12.9 Hz), 7.83 (1H, s), 8.27 (1H, d, J=12.9 Hz)

reactant | 5-amino-1-(2-triphenylmethyloxyethyl)-1H-pyrazole-4-carbaldehyde | 15 g | NC1=C(C=NN1CCOC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=O | C25H23N3O2
reactant | ammonium acetate | 4.07 g | C(C)(=O)[O-].[NH4+]
reactant | nitromethane | 300 ml | [N+](=O)([O-])C | CH3NO2
product | 5-amino-4—[(E)-2-nitroethenyl]-1-(2-triphenylmethyloxyethyl)-1H-pyrazole | 4.46 g | NC1=C(C=NN1CCOC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)\C=C\[N+](=O)[O-] | C26H24N4O3
